US07939528B2
Crude 4-{[2-chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-1,2-benzenediamine was heated to reflux in 5 mL of trimethyl orthoformate for 2 hours. The reaction mixture was then concentrated and purified by preparative HPLC, with conconiment loss of the dioxolane protecting group. The HPLC fractions were combined and diluted with 1N NaOH, extracted with ethyl acetate, dried over MgSO4 and concentrated to give 4-(1H-benzimidazol-5-yloxy)-3-chlorobenzaldehyde. (M+1) 272.9, 1.65 min (LC/MS method B)

reactant | 4-{[2-chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-1,2-benzenediamine | ClC1=C(C=CC(=C1)C1OCCO1)OC=1C=C(C(=CC1)N)N | C15H15ClN2O3
reactant | trimethyl orthoformate | 5 mL | C(OC)(OC)OC | C4H10O3
product | 4-(1H-benzimidazol-5-yloxy)-3-chlorobenzaldehyde | N1C=NC2=C1C=CC(=C2)OC2=C(C=C(C=O)C=C2)Cl | C14H9ClN2O2
